US07625889B2
Step 1: (R)-2-[(4-Fluoro-benzylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Sodium triacetoxyborohydride (15.9 g, 75.4 mmol) and enough acetic acid to bring the pH to 5 were added to a solution of N-tert-butoxycarbonyl-L-prolinal (5 g, 25 mmol) and 4-fluorobenzylamine (6.28 g, 50.3 mmol) in 200 mL of 1,2-dichloroethane. The mixture was stirred at ambient temperature overnight, and then it was diluted with dichloromethane, and washed with saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with methanol/ethyl acetate) afforded 6.0 g of product.

reactant | Sodium triacetoxyborohydride | 75.4 mmol, 15.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | N-tert-butoxycarbonyl-L-prolinal | 25 mmol, 5 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | 4-fluorobenzylamine | 50.3 mmol, 6.28 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-[(4-Fluoro-benzylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.0 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNCC1=CC=C(C=C1)F | C17H25FN2O2
